US06057337
1-[2-(2-Hydroxyethyl)piperidino]octadecan-l-one and 1-bromo-4-chlorobutane are reacted in acetone in the presence of potassium carbonate at reflux temperature to obtain 2-[2-(4-chlorobutoxy)ethyl]-1-octadecanoylpiperidine.

reactant | 1-[2-(2-Hydroxyethyl)piperidino]octadecan-l-one | OCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCC)=O | C25H49NO2
reactant | 1-bromo-4-chlorobutane | BrCCCCCl | C4H8BrCl
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | 2-[2-(4-chlorobutoxy)ethyl]-1-octadecanoylpiperidine | ClCCCCOCCC1N(CCCC1)C(CCCCCCCCCCCCCCCCC)=O | C29H56ClNO2
